US08058431B2
2) 5-Fluoro-2-(6-methoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide
600 mg (1.41 mmol) 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide and 436 mg (1.41 mmol) 5-fluoro-2,3-dimethyl-benzothiazol-3-ium iodide were dissolved in 3.0 ml dimethylformamide and 571 mg (0.79 ml, 5.64 mmol) triethylamine were added. The solution was stirred for 1 h at 80° C., filtrated and the residue was washed with water and methanol.

reactant | 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide | 1.41 mmol, 600 mg | [I-].COC=1C=C2C(=NC(=[N+](C2=CC1)C)C1=CC=CC=C1)SC
reactant | 5-fluoro-2,3-dimethyl-benzothiazol-3-ium iodide | 1.41 mmol, 436 mg | [I-].FC=1C=CC2=C([N+](=C(S2)C)C)C1
reactant | triethylamine | 5.64 mmol, 0.79 ml, 571 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 5-Fluoro-2-(6-methoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide | [I-].FC=1C=CC2=C([N+](=C(S2)C=C2N=C(N(C3=CC=C(C=C23)OC)C)C2=CC=CC=C2)C)C1 | InChI=1S/C25H21FN3OS.HI/c1-28-22-13-17(26)9-12-23(22)31-24(28)15-20-19-14-18(30-3)10-11-21(19)29(2)25(27-20)16-7-5-4-6-8-16;/h4-15H,1-3H3;1H/q+1;/p-1
